US05668161
A solution of 1-(4-fluorophenyl)-2-(4-methylthiophenyl)-2-bromo-ethanone, (Example 1, Step 3) (2.30 g, 6.8 mmol) and 4-methoxyphenoxy thioacetamide (1.35 g, 6.8 mmol) in 20 mL of acetonitrile was heated to reflux for 1.1 hours. The solution was concentrated in vacuo and the residue dissolved in ethyl acetate. The ethyl acetate solution was washed with saturated aqueous NaHCO3, brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo to afford a solid that was recrystallized from a mixture of ethyl acetate and isooctane to provide pure 4- (4-fluorophenyl) -5- (4-methylthiophenyl)-2-((4-methoxyphenoxy) methyl) thiazole (1.60 g; 54%): mp 89°-92° C., 1H NMR (CDCl3) 300 MHz 7.47 (dd, J=3.2, 8.7Hz, 2H), 7.23 (d, J=8.5 Hz, 2H), 7.17 (d, J=8.5Hz, 2H), 6.98 (m, 4H), 6.86 (d, J=9.1 Hz, 2H), 5.33 (s, 2H), 3.78 (s, 3H), 2.49 (s,3H). 19F NMR (CDCl3) -114.07 (m). Mass spectrum M+H+=438.

reactant | 1-(4-fluorophenyl)-2-(4-methylthiophenyl)-2-bromo-ethanone | FC1=CC=C(C=C1)C(C(Br)C1=CC=C(C=C1)SC)=O | C15H12BrFOS
reactant | 4-methoxyphenoxy thioacetamide | 6.8 mmol, 1.35 g | COC1=CC=C(OCC(=S)N)C=C1 | C9H11NO2S
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4- (4-fluorophenyl) -5- (4-methylthiophenyl)-2-((4-methoxyphenoxy) methyl) thiazole | 1.60 g, 54% | FC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)SC)COC1=CC=C(C=C1)OC | C24H20FNO2S2
